US07071350B2
The concentrations of the substrates prior to entering the reactor were 0.168 M for sodium malate and 1.797 M for aqueous ammonia. The reaction time was 0.181 second, and the aqueous solution obtained after the reaction was examined with a high performance liquid chromatography/mass spectroscopy apparatus, which confirmed that an amino group had been introduced into the malic acid, and that aspartic acid had been produced. The aspartic acid concentration was 4.2 mM, and the reaction yield thereof was 2.5%.

reactant | sodium malate | C(C(O)CC(=O)[O-])(=O)[O-].[Na+].[Na+]
reactant | ammonia | N | H3N
reactant | malic acid | C(C(O)CC(=O)O)(=O)O | C4H6O5
product | aspartic acid | N[C@@H](CC(=O)O)C(=O)O | C4H7NO4
